US09216980B2
Preparation of 2-Bromo-5-ethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine
To a suspension of 2-bromo-4,5,6,7-tetrahydrothieno[3,2-c]pyridine (1.86 g, 8.50 mmol) in THF (30.6 mL) was added acetic acid (17 mL) then the reaction temperature was reduced to 0° C. and sodium borohydride (2.55 g, 42.5 mmol) was added in portions. After the addition was complete, the reaction mixture was heated at 60° C. for 1 h then the reaction mixture was cooled to ambient temperature and quenched by the addition of water. The resultant solution was partitioned between ethyl acetate (75 mL) and 1N sodium hydroxide solution (50 mL) and the layers separated. The organic phase was collected then dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to give the title compound (1.87 g, 89%). 1H NMR (MeOD, 300 MHz): 6.78 (s, 1H), 3.50 (s, 2H), 2.81 (s, 4H), 2.62 (q, J=7.2 Hz, 2H), 1.17 (t, J=7.2 Hz, 3H).

reactant | 2-bromo-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 8.50 mmol, 1.86 g | BrC1=CC=2CNCCC2S1 | C7H8BrNS
reactant | acetic acid | 17 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 42.5 mmol, 2.55 g | [BH4-].[Na+]
solvent | THF | 30.6 mL | C1CCOC1 | C4H8O
product | 2-Bromo-5-ethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 1.87 g, 89% | BrC1=CC=2CN(CCC2S1)CC | C9H12BrNS
